US05652246
3-Isopropenyl-4-nitro-2(3H)-benzimidazolone
0.3 ml of 47% potassium hydroxide and then 115 mmol of methyl acetoacetate are added to 100 mmol of 2-amino-3-nitroaniline in 50 ml of xylene brought to 120° C. The whole mixture is brought to reflux for 4 hours and the water/methanol mixture formed is removed by means of a Dean and Stark apparatus. 18 ml of 47% potassium hydroxide and 200 ml of water are then added. The aqueous phase is washed with xylene, brought to pH=6 with 12N hydrochloric acid and then extracted with ethyl acetate and the expected product is purified by chromatography on a silica column, using a dichloromethane/methanol (95/5) mixture as eluent.

reactant | potassium hydroxide | 0.3 ml | [OH-].[K+]
reactant | methyl acetoacetate | 115 mmol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 2-amino-3-nitroaniline | 100 mmol | NC1=C(N)C=CC=C1[N+](=O)[O-] | C6H7N3O2
reactant | water methanol | O.CO
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-Isopropenyl-4-nitro-2(3H)-benzimidazolone | C(=C)(C)N1C(NC2=C1C(=CC=C2)[N+](=O)[O-])=O | C10H9N3O3
